* source _FIG1_17_AC_MSD
T_T1         VIN 0 N01155 0 Z0=50 TD=10ns  
R_R1         0 N01155  50 TC=0,0 
V_Vin         VIN 0 DC 0Vdc AC 1Vac 
E_E1         VOUT VIN N01155 0 1
