* source _FIG1_20_AC_MSD
V_V1         VIN 0 DC 0Vdc AC 1Vac 
R_R1         0 N00779  50 TC=0,0 
T_T1         VIN 0 N00779 0 Z0=50 TD=10ns  
E_E1         VOUT 0 VIN N00779 1
