* source _FIG1_25_K_IS_3_AC_MSD
V_V1         VIN 0 DC 0Vdc AC 1Vac 
T_T1         VIN 0 N01364 0 Z0=50 TD=30ns  
R_R1         0 N01364  50 TC=0,0 
E_E1         VOUT 0 VIN N01364 1
