* source _FIG4_22_K_IS_12_FS_3_AC_MSD
T_T4         N30634 0 VOUT 0 Z0=50 TD=10n  
R_R1         0 N30252  50 TC=0,0 
E_E4         N30600 0 0 N30634 1
E_E3         N30276 N30600 N30390 0 1
E_E1         N30282 0 VIN N30252 1
T_T1         VIN 0 N30252 0 Z0=50 TD=120n  
E_E2         VOUT 0 N30282 N30276 1
V_V1         VIN 0 DC 0Vdc AC 1Vac 
T_T3         N30270 0 VOUT 0 Z0=50 TD=10n  
T_T2         N30390 0 N30270 0 Z0=50 TD=10n  
R_R2         0 N30390  50 TC=0,0 
R_R3         0 N30634  50 TC=0,0 
