* source _FIG4_22_K_IS_8_FS_4_AC_MSD
R_R2         0 N28024  50 TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 1Vac 
E_E1         N27906 0 VIN N27880 1
E_E3         N27916 0 N28024 0 1
R_R1         0 N27880  50 TC=0,0 
T_T1         VIN 0 N27880 0 Z0=50 TD=80n  
E_E2         VOUT 0 N27906 N27916 1
T_T2         N28024 0 VOUT 0 Z0=50 TD=20n  
